* C:\Users\samue\OneDrive\Desktop\Projects\potentiostat\open-source-potentiostat\hardware\simulation\RandlesCell_DC_2.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N002 WE 50pF
R1 N002 WE 1K
C2 +12 0 100nF
C3 +12 0 10µF
C4 -12 0 10µF
C5 -12 0 100nF
X§U1 0 WE +12 -12 N002 OPAx134 ;§pnba In+)In-)V+)V-)OUT
X§U2 RE N013 +12 -12 N013 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U3 Vset N013 +12 -12 RE TL072 ;§pnba In+)In-)V+)V-)OUT
V3 +12 0 12V
V4 0 -12 12V
C6 0 -12 100nF
C9 0 +12 100nF
X§U4 N010 N011 +12 -12 N011 TL072 ;§pnba In+)In-)V+)V-)OUT
X§U5 N008 N012 +12 -12 Vset TL072 ;§pnba In+)In-)V+)V-)OUT
C11 0 +12 100nF
C13 0 -12 10µF
C15 0 +12 100nF
C17 0 -12 10µF
C19 0 +12 100nF
C20 0 -12 100nF
R N008 DAC_OUT 8.25K
R3 N008 0 10K
R2 N012 N011 10K
R4 Vset N012 12.12K
V6 N009 0 3.3V
R5 N010 N009 10K
R6 0 N010 10K
C22 0 N010 10nF
Rct WE N005 10k
V8 DAC_OUT 0 PWL(0 0 1 3.3 2 0) AC 1
X§U6 0 N004 +12 -12 N006 TL072 ;§pnba In+)In-)V+)V-)OUT
V5 5VUSB 0 5
C14 0 -12 100nF
C25 0 +12 100nF
R9 N006 N004 10K
R11 N006 N007 10K
X§U8 0 N007 +12 -12 Vout TL072 ;§pnba In+)In-)V+)V-)OUT
R12 N007 Vout 10K
C32 0 +12 100nF
C33 0 -12 100nF
R8 N004 N002 10K
X§U7 N001 N003 +12 -12 N003 TL072 ;§pnba In+)In-)V+)V-)OUT
C26 0 +12 100nF
C27 0 -12 100nF
R10 N003 N004 10K
R7 N001 5VUSB 10K
R13 0 N001 10K
C29 0 N001 10nF
C7 WE N005 10µf
RS N005 RE 100
.inc OPAx134.LIB
.inc TL072.301
* .op
.tran 2.2
.backanno
.end
